US20010056179A1
A mixture of 3-(2-chlorophenyl)propanoic acid (5.0 g, 27.1 mmole), thionyl chloride (10.9 ml, 149 mmole) and toluene (75 ml) was refluxed for two hours. Concentration in vacuo gave 3-(2-chlorophenyl)propanoyl chloride which was taken up in methylene chloride and used in the next step without further purification.

reactant | 3-(2-chlorophenyl)propanoic acid | 27.1 mmole, 5.0 g | ClC1=C(C=CC=C1)CCC(=O)O | C9H9ClO2
reactant | thionyl chloride | 149 mmole, 10.9 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-chlorophenyl)propanoyl chloride | ClC1=C(C=CC=C1)CCC(=O)Cl | C9H8Cl2O
